US04588725
2-{4-[3-(4-Fluorophenoxy)propyl]-1-piperazinyl}quinazoline
2.5 g 2-Chloro-quinazoline, 3.8 g 1-[3-(4-fluorophenoxy)propyl]piperazine and 2.5 ml triethylamine in 15 ml isopropanol are stirred under reflux for 5 hours. The solvent is then evaporated in vacuo and the residue partitioned between water and methylene chloride. The organic phase is dried and evaporated. The residue is recrystallized from ethanol to yield the title compound, m.p. 126°-128° C.

reactant | 2-Chloro-quinazoline | 2.5 g | ClC1=NC2=CC=CC=C2C=N1 | C8H5ClN2
reactant | 1-[3-(4-fluorophenoxy)propyl]piperazine | 3.8 g | FC1=CC=C(OCCCN2CCNCC2)C=C1 | C13H19FN2O
reactant | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 15 ml | C(C)(C)O | C3H8O
product | 2-{4-[3-(4-Fluorophenoxy)propyl]-1-piperazinyl}quinazoline | FC1=CC=C(OCCCN2CCN(CC2)C2=NC3=CC=CC=C3C=N2)C=C1 | C21H23FN4O
